US04719054
(a) 18-Methyl-4,15-estradiene-3,17-dione
At 0° C., 77.5 ml of methanesulfonyl chloride is added dropwise within 10 minutes to 250 g of 15α-hydroxy-18-methyl-4-estrene-3,17-dione in 704 ml of pyridine. After 3.5 hours, 350 ml of dimethylformamide and 283 g of anhydrous sodium acetate are added, the mixture is stirred under argon for 20 hours at room temperature, and the reaction mixture is introduced into ice water. The thus-precipitated product is suctioned off, washed with water, and dried under vacuum. For purposes of purification, the crude product (212 g) is treated with 21 g of active carbon in 1,500 ml of ethyl acetate and 0.4 ml of pyridine. After concentrating the solution to 420 ml, 188 g of 18-methyl-4,15-estradiene-3,17-dione is crystallized at 0° C. Melting point 156.9° C. (from acetone/hexane).

reactant | methanesulfonyl chloride | 77.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 15α-hydroxy-18-methyl-4-estrene-3,17-dione | O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O | C19H26O3
reactant | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
reactant | sodium acetate | 283 g | C(C)(=O)[O-].[Na+]
solvent | pyridine | 704 ml | N1=CC=CC=C1 | C5H5N
product | 18-Methyl-4,15-estradiene-3,17-dione | CC[C@@]12C(C=C[C@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O | C19H24O2
